US05300506
p-Toluenesulfonyl chloride (0.30 g, 1.56 mmol) was dissolved in 2 mL of THF, and the solution was cooled to 0° C. A mixture of 1-[3-[5-amino-1-H-indol-3-yl]propyl]-4-(5-methoxy-4-pyrimidinyl)piperazine (0.5 g, 1.42 mmol), and triethylamine (0.16 g, 1.56 mmol) in 3 mL of THF was added to the p-toluenesulfonyl chloride solution. The solution was stirred at 0° C. for 30 min, warmed to 23° C. (1 h), and concentrated in vacuo. Silica gel column chromatography (95:5:0.5 CH2Cl2 -MeOH-30% NH4OH) of the concentrate gave 1-[3-[5-[[(4-methylphenyl) sulfonyl]amino]-1-H-indol-3-yl]propyl]-4-(5-methoxy-4-pyrimidinyl)piperazine (0.42 g, 0.8 mmol, 57%). The free base (0.42 g, 0.80 mmol) was dissolved in a minimum volume of acetonitrile. A concentrated solution of oxalic acid (0.072 g, 0.8 mmol) in CH3CN was added with stirring. The precipitate was separated by filtration, washed sparingly with CH3CN and dried at 70° C. in vacuo overnight to give the title compound (0.40 g, 0.66 mmol, 82%): mp 125°-127° C. Anal. Calcd for C27H32N6O3S1.1.0 C2H2O4 : C, 55.40; H, 5.77; N, 13.36. Found: C, 55.29; H, 5.41; N, 13.15.

reactant | p-Toluenesulfonyl chloride | 1.56 mmol, 0.30 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-[3-[5-amino-1-H-indol-3-yl]propyl]-4-(5-methoxy-4-pyrimidinyl)piperazine | 1.42 mmol, 0.5 g | NC=1C=C2C(=CNC2=CC1)CCCN1CCN(CC1)C1=NC=NC=C1OC | C20H26N6O
reactant | triethylamine | 1.56 mmol, 0.16 g | C(C)N(CC)CC | C6H15N
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-[3-[5-[[(4-methylphenyl) sulfonyl]amino]-1-H-indol-3-yl]propyl]-4-(5-methoxy-4-pyrimidinyl)piperazine | 0.8 mmol, 0.42 g, 57% | CC1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C(=CNC2=CC1)CCCN1CCN(CC1)C1=NC=NC=C1OC | C27H32N6O3S
